US04128647
A. 4-[(4,5-Dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis[(4-methylphenyl)methylene]thiopyran-4-ol
To a stirred suspension of tetrahydro-3,5-bis-(4-methylphenylmethylene)-4H-thiopyran-4-one (5 gm; 15.6 mmole) in acetone (150 ml) is added a freshly filtered solution of 2-amino-2-thiazoline (1.9 gm, 18.6 mmole) in acetone (100 ml).

reactant | tetrahydro-3,5-bis-(4-methylphenylmethylene)-4H-thiopyran-4-one | 15.6 mmole, 5 gm | CC1=CC=C(C=C1)C=C1CSCC(C1=O)=CC1=CC=C(C=C1)C | C21H20OS
reactant | 2-amino-2-thiazoline | 18.6 mmole, 1.9 gm | NC=1SCCN1 | C3H6N2S
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-[(4,5-Dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis[(4-methylphenyl)methylene]thiopyran-4-ol | S1C(=NCC1)NC1(C(CSCC1=CC1=CC=C(C=C1)C)=CC1=CC=C(C=C1)C)O | C24H26N2OS2
